US05021413
1-(5,6-dichloro-3-oxoindan-1-carbonyl)-4-methyl-2-(pyrrolidin-1-ylmethyl)piperazine dihydrochloride
To a suspension of 2.0 g of 4-methyl-2-(pyrrolidin-1-ylmethyl)piperazine trihydrochloride in 150 ml of methylene chloride was added 4.3 ml of triethylamine with vigorous stirring in an atmosphere of nitrogen. After stirring for 20 minutes, the mixture was cooled to -10° C. in an ice and salt bath and 50 ml of methylene chloride solution containing 1.9 g of 5,6-dichloro-3-oxoindan-1-carbonyl chloride was added dropwise to it. The reaction mixture was stirred at -10° C. for an hour and a half and subsequently at room temperature for two hours and a half and poured into a saturated aqueous solution of sodium bicarbonate. The resulting aqueous mixture was extracted with diethyl ether and the extract was washed with a saturated aqueous solution of sodium chloride followed by drying over anhydrous magnesium sulfate and distilling off the solvent. The residue was purified by column chromatography through silica gel and 1.60 g of the desired compound was obtained from the fractions eluted with a 10:3 mixture of ethyl acetate and triethylamine. To a solution of the product dissolved in methylene chloride was added a two molar quantity of a 4 N 1,4-dioxane solution of hydrogen chloride and the mixture was concentrated. The residue was recrystallized from a mixture of ethanol and acetone to afford the title compound melting at 250°-255° C. (dec.).

reactant | 4-methyl-2-(pyrrolidin-1-ylmethyl)piperazine trihydrochloride | 2.0 g | Cl.Cl.Cl.CN1CC(NCC1)CN1CCCC1
reactant | triethylamine | 4.3 ml | C(C)N(CC)CC | C6H15N
reactant | 5,6-dichloro-3-oxoindan-1-carbonyl chloride | 1.9 g | ClC=1C=C2C(CC(C2=CC1Cl)C(=O)Cl)=O | C10H5Cl3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-(5,6-dichloro-3-oxoindan-1-carbonyl)-4-methyl-2-(pyrrolidin-1-ylmethyl)piperazine dihydrochloride | 1.60 g | Cl.Cl.ClC=1C=C2C(CC(C2=CC1Cl)C(=O)N1C(CN(CC1)C)CN1CCCC1)=O | InChI=1S/C20H25Cl2N3O2.2ClH/c1-23-6-7-25(13(11-23)12-24-4-2-3-5-24)20(27)16-10-19(26)15-9-18(22)17(21)8-14(15)16;;/h8-9,13,16H,2-7,10-12H2,1H3;2*1H
